US04621094
To a stirred solution of 2,6-dibromopyridine (100 g) in dry ether (1 l) under nitrogen at -70° was added dropwise during 2 hr a solution of n-butyllithium (270 mL, 1.7M in hexane). After an additional 0.5 hr, a solution of p-chlorobenzaldehyde (65 g) in dry ether (500 mL) was added during a 1 hr period. The reaction mixture was allowed to warm to ca. 0° and then poured into aqueous hydrochloric acid (1 l, 4N). The ether layer was separated and the aqueous layer was extracted with two additional portions (300 mL) of ether. The combined ether layers were washed with water (500 mL), dried (Na2SO4) and concentrated to give a syrup. The crude product was chromatographed on silica gel using the Waters Prep 500 (trademark of Waters Associates Inc., Milford, MA 01757) with methylene chloride to provide α-(6-bromo-2-pyridyl)-4-chlorobenzyl alcohol (93.8 g), m.p. 64.5°-65°.

reactant | 2,6-dibromopyridine | 100 g | BrC1=NC(=CC=C1)Br | C5H3Br2N
reactant | n-butyllithium | 1.7M, 270 mL | C(CCC)[Li]
reactant | p-chlorobenzaldehyde | 65 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | hydrochloric acid | 4N, 1 l | Cl | ClH
solvent | ether | 1 l | CCOCC | C4H10O
solvent | ether | 500 mL | CCOCC | C4H10O
product | α-(6-bromo-2-pyridyl)-4-chlorobenzyl alcohol | 93.8 g | BrC1=CC=CC(=N1)C(C1=CC=C(C=C1)Cl)O | C12H9BrClNO
